US08426411B2
A solution of ethyl 3-oxocyclobutanecarboxylate (2.90 g, 20.4 mmol, Parkway) in EtOH (30 mL) at ambient temperature was treated with NaBH4 (0.77 g, 20 mmol). The reaction was stirred for about 1 h and then 2 N aqueous HCl was added to adjust the pH to about 2. The reaction was concd in vacuo. The reaction was partitioned with DCM (50 mL) and brine (50 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered then concd in vacuo. The resulting residue was purified on silica gel (80 g) using 20-40% EtOAc in DCM to give cis-ethyl 3-hydroxycyclobutanecarboxylate (2.75 g, 66%) as a clear oil: 1H NMR (DMSO-d6) δ 5.17 (d, 1H), 4.09-3.99 (m, 2H), 3.99-3.90 (m, 1H), 2.57-2.47 (m, 1H), 2.42-2.29 (m, 2H), 1.98-1.89 (m, 2H), 1.17 (m, 3H).

reactant | ethyl 3-oxocyclobutanecarboxylate | 20.4 mmol, 2.90 g | O=C1CC(C1)C(=O)OCC | C7H10O3
reactant | NaBH4 | 20 mmol, 0.77 g | [BH4-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | EtOH | 30 mL | CCO | C2H6O
product | cis-ethyl 3-hydroxycyclobutanecarboxylate | 2.75 g, 66% | O[C@H]1C[C@H](C1)C(=O)OCC | C7H12O3
